### PR TITLE
Rational ind

### PR DESCRIPTION
**Pull request by Gedol**
In the Rational division axioms, Division.Props, add a more natural induction axiom to replace as_ratio.

This is a new pull request since last one seemed to get Corrupted.

### CODE REVIEW

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 1]
```diff
@@ -148,21 +148,20 @@ class Division.Props
...
-  Given any two integers, we can easily make a rational number; convert both of
-  them to rationals using `from_integer`, then divide them. This axiom tells us
-  that we can also do the reverse: given any rational, there are two integers
-  that produce it when put into a ratio.
-
-  It's a useful axiom because it provides a way to "deconstruct" a rational
-  number into simpler pieces, which may be easier to work with. Although it's
-  preferable to work with rational numbers directly, and use this only when
-  necessary.
+  An Induction/recursion principle for Rationals.
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Nitpick: no need to capitalize "induction" and "rationals".

Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Also, could you add an extra line break after this first sentence? Without that, the rendered documentation in VS Code won't make a new paragraph (it interprets the comments as Markdown).

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 2]
```diff
@@ -148,21 +148,20 @@ class Division.Props
...
+  It states that any predicate (that is substitive wrt ≃ on rationals) that
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Typo: substitive -> substitutive

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 3]
```diff
@@ -148,21 +148,20 @@ class Division.Props
...
+  holds for all rationals of the form a / b (where a and b are integers) will
+  also hold for any rational. In particular, this implies that all rationals 
+  can be represented in the form a / b, which is formalized below in the
+  theorem rational_as_ratio. In other words, it excludes any rationals not of
+  this form. This axiom is inspired by the induction axiom of the Peano Axioms:
+    https://en.wikipedia.org/wiki/Mathematical_induction#Axiom_of_induction
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: It would be better for readability to make some of the text a link, maybe the phrase "induction axiom"? Markdown syntax works: `[induction axiom](https://...)`. I've also used the [Wikipedia URL shortener](https://en.wikipedia.org/wiki/Special:UrlShortener) to keep the text within the 80 column limit. And it's okay if you need to wrap the whole link onto a new line to get it to fit, Markdown still treats it as part of the same paragraph.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 4]
```diff
@@ -148,21 +148,20 @@ class Division.Props
...
+  It states that any predicate (that is substitive wrt ≃ on rationals) that
+  holds for all rationals of the form a / b (where a and b are integers) will
+  also hold for any rational. In particular, this implies that all rationals 
+  can be represented in the form a / b, which is formalized below in the
+  theorem rational_as_ratio. In other words, it excludes any rationals not of
+  this form. This axiom is inspired by the induction axiom of the Peano Axioms:
+    https://en.wikipedia.org/wiki/Mathematical_induction#Axiom_of_induction 
   -/
-  as_ratio (p : ℚ) : AsRatio p
+  ind_fraction {motive : ℚ → Prop}
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Formatting: if I need to wrap some arguments onto another line, then for consistency I put _all_ arguments below the axiom/theorem name. It also means that if the arguments change in the future, it'll be clear from the commit diff that only the arguments changed, not the name.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 5]
```diff
@@ -148,21 +148,20 @@ class Division.Props
...
+  holds for all rationals of the form a / b (where a and b are integers) will
+  also hold for any rational. In particular, this implies that all rationals 
+  can be represented in the form a / b, which is formalized below in the
+  theorem rational_as_ratio. In other words, it excludes any rationals not of
+  this form. This axiom is inspired by the induction axiom of the Peano Axioms:
+    https://en.wikipedia.org/wiki/Mathematical_induction#Axiom_of_induction 
   -/
-  as_ratio (p : ℚ) : AsRatio p
+  ind_fraction {motive : ℚ → Prop} 
+    [motive_subst : AA.Substitutive₁ (α := ℚ) (motive) (· ≃ ·) (· → ·)]
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Let's leave off the `motive_subst` name here. I usually only add a name if I need to explicitly provide the instance argument, which happens rarely.

The parentheses around `motive` can also be dropped, they're unnecessary.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 6]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
   [Core (ℤ := ℤ) ℚ] [Addition ℚ] [Multiplication ℚ]
   [Negation ℚ] [Reciprocation ℚ] [Division ℚ]
 
+/--
+Equivalent to `Division.Props.ind_fraction` but with a more convenient argument
+order when using the `apply` tactic.
+-/
+def ind_fraction_on
+  {motive : ℚ → Prop}
+  [AA.Substitutive₁ (α := ℚ) (motive) (· ≃ ·) (· → ·)] (p : ℚ)
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Same here, the parentheses around `motive` are redundant.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 7]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
   [Negation ℚ] [Reciprocation ℚ] [Division ℚ]
 
+/--
+Equivalent to `Division.Props.ind_fraction` but with a more convenient argument
+order when using the `apply` tactic.
+-/
+def ind_fraction_on
+  {motive : ℚ → Prop}
+  [AA.Substitutive₁ (α := ℚ) (motive) (· ≃ ·) (· → ·)] (p : ℚ) 
+    (on_int_frac : ({a b : ℤ} → [Integer.Nonzero b] → motive ( (a : ℚ) / b)))
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Nitpick: the gap between parentheses in `motive ( (a : ℚ) / b))` looks a bit awkward. I've recently started writing type conversions without any spaces around the colon, e.g. `a:ℚ`. I think that would tighten this up a bit: `motive ((a:ℚ) / b)`.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 8]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+    : motive p :=
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Formatting: When the arguments and goal span multiple lines, I always put the final `:=` on its own line. That makes it easier to see the end of the definition signature at a quick glance.

More formatting: all of the arguments should have four spaces of indentation. That makes a clear distinction between them and the function body, which is always indented by two spaces.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 9]
```diff
@@ -148,21 +148,20 @@ class Division.Props
...
-  that we can also do the reverse: given any rational, there are two integers
-  that produce it when put into a ratio.
-
-  It's a useful axiom because it provides a way to "deconstruct" a rational
-  number into simpler pieces, which may be easier to work with. Although it's
-  preferable to work with rational numbers directly, and use this only when
-  necessary.
+  An Induction/recursion principle for Rationals.
+  It states that any predicate (that is substitive wrt ≃ on rationals) that
+  holds for all rationals of the form a / b (where a and b are integers) will
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Formatting: when referring to any math expressions or variables, I wrap them in backticks so they are rendered as code. This line would be written as:

```markdown
holds for all rationals of the form `a / b` (where `a` and `b` are integers) will
```

Comment (cruhland) [reply Lean4Axiomatic/Rational/Reciprocation.lean]: Could you also update all the other comments similarly?

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 10]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+-/
+def ind_fraction_on
+  {motive : ℚ → Prop}
+  [AA.Substitutive₁ (α := ℚ) (motive) (· ≃ ·) (· → ·)] (p : ℚ) 
+    (on_int_frac : ({a b : ℤ} → [Integer.Nonzero b] → motive ( (a : ℚ) / b)))
+    : motive p :=
+    ind_fraction on_int_frac p
+
+/--
+The predicate AsRatio satisfies a substitivie property with respect to the
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Typo: substitivie -> substitutive

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 11]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+equivalence relation ≃. 
+I.e. If two rationals a and b are equvalent and a can be expressed as an
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Typo: "If" shouldn't be capitalized.

Typo: equvalent -> equivalent

Comment (cruhland) [reply Lean4Axiomatic/Rational/Reciprocation.lean]: Also, I try to use distinct variable names for each type, so you can just tell from the name what type it is:
* `n m k j : ℕ`
* `a b c d : ℤ`
* `p q r s : ℚ`

Would recommend doing that here so you don't need to use `a'` and `b'`.

File: Lean4Axiomatic/Rational/Reciprocation.lean (hunk 7 above)
Comment (cruhland) [reply Lean4Axiomatic/Rational/Reciprocation.lean]: Also, it looks like there are redundant parentheses around the whole type (everything after the first colon).

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 12]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+  intro a b aeb as_ratio_a 
+  exact match as_ratio_a with
+  | AsRatio.intro a' b' bnz eqfrac =>
+    have b_as_ratio : b ≃ a' / b' := calc
+      b      ≃ _ := eqv_symm aeb
+      a      ≃ _ := eqfrac
+      from_integer a' / from_integer b'  ≃ _ := eqv_refl
+    AsRatio.intro a' b' bnz b_as_ratio
+
+instance AsRatio_subst : AA.Substitutive₁ (α := ℚ) (AsRatio) (· ≃ ·) (· → ·) :=
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Naming conventions: I'd recommend calling this instance definition `AsRatio_subst_inst`, and the previous theorem `AsRatio_subst`. This is a pattern I've been using recently with instance definitions.

Comment (cruhland) [reply Lean4Axiomatic/Rational/Reciprocation.lean]: The parentheses around `AsRatio` in the arguments to `Substitutive₁` are redundant.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 13]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+  exact match as_ratio_a with
+  | AsRatio.intro a' b' bnz eqfrac =>
+    have b_as_ratio : b ≃ a' / b' := calc
+      b      ≃ _ := eqv_symm aeb
+      a      ≃ _ := eqfrac
+      from_integer a' / from_integer b'  ≃ _ := eqv_refl
+    AsRatio.intro a' b' bnz b_as_ratio
+
+instance AsRatio_subst : AA.Substitutive₁ (α := ℚ) (AsRatio) (· ≃ ·) (· → ·) := 
+{
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Formatting nitpick: I usually put the opening curly brace on the same line as the `:=`, if it will fit. If it doesn't fit, then the arguments (if any) and return type should be moved onto their own lines, with the `:= {` appearing on the last line on its own.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 14]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+
+/--
+The predicate AsRatio satisfies a substitivie property with respect to the
+equivalence relation ≃. 
+I.e. If two rationals a and b are equvalent and a can be expressed as an
+integer ratio, a ≃ a' / b', then b can be expressed in the same way.
+-/
+theorem AsRatio_prop_subst_lemma : ∀ {a b : ℚ}, a ≃ b → AsRatio a → AsRatio b
+    := by
+  intro a b aeb as_ratio_a
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: It's usually easier to have named arguments instead of using the forall quantifier, because the the arguments won't need to be moved into the context by `intro`:

```lean4
theorem AsRatio_prop_subst_lemma {a b : ℚ} : a ≃ b → AsRatio a → AsRatio b := by
  intro aeb as_ratio_a
```

Alternate formatting if the first line above is too long:

```lean4
theorem AsRatio_prop_subst_lemma
    {a b : ℚ} : a ≃ b → AsRatio a → AsRatio b
    := by
  intro aeb as_ratio_a
```

Comment (cruhland) [reply Lean4Axiomatic/Rational/Reciprocation.lean]: Also, when introducing proposition arguments, instead of giving them names I like to show their types, and then refer to them in the rest of the proof using e.g. `‹a ≃ b›`. So this `intro` line would look like:

```lean4
  intro (_ : a ≃ b) (_ : AsRatio a)
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 15]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+The predicate AsRatio satisfies a substitivie property with respect to the
+equivalence relation ≃. 
+I.e. If two rationals a and b are equvalent and a can be expressed as an
+integer ratio, a ≃ a' / b', then b can be expressed in the same way.
+-/
+theorem AsRatio_prop_subst_lemma : ∀ {a b : ℚ}, a ≃ b → AsRatio a → AsRatio b
+    := by
+  intro a b aeb as_ratio_a 
+  exact match as_ratio_a with
+  | AsRatio.intro a' b' bnz eqfrac =>
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Instead of a `match` expression, you can use pattern matching in a `have` statement:

```lean4
  have (AsRatio.intro (a' : ℤ) (b' : ℤ) (_ : Integer.Nonzero b') (_ : a ≃ a'/b')) := ‹AsRatio a›
```

That line is probably too long, so when that happens I try to move the `:= ...` part onto the next line. If that's still too long, then I use a name for the last argument, and put the full type on its own line:

```lean4
  have (AsRatio.intro (a' : ℤ) (b' : ℤ) (_ : Integer.Nonzero b') eqv)
    := ‹AsRatio a›
  have : a ≃ a'/b' := eqv
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 16]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+/--
+The predicate AsRatio satisfies a substitivie property with respect to the
+equivalence relation ≃. 
+I.e. If two rationals a and b are equvalent and a can be expressed as an
+integer ratio, a ≃ a' / b', then b can be expressed in the same way.
+-/
+theorem AsRatio_prop_subst_lemma : ∀ {a b : ℚ}, a ≃ b → AsRatio a → AsRatio b
+    := by
+  intro a b aeb as_ratio_a 
+  exact match as_ratio_a with
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: I think it's clearer if the `exact` keyword is used directly on the line where the goal is specified. In this case:

```lean4
    exact AsRatio.intro a' b' bnz b_as_ratio
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 17]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+  | AsRatio.intro a' b' bnz eqfrac =>
+    have b_as_ratio : b ≃ a' / b' := calc
+      b      ≃ _ := eqv_symm aeb
+      a      ≃ _ := eqfrac
+      from_integer a' / from_integer b'  ≃ _ := eqv_refl
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: There are a few tweaks to make here:
1. No need to name the result (`b_as_ratio`), because you can refer to it below using `‹b ≃ a' / b'›`.
2. References to argument names (`aeb`, `eqfrac`) should be replaced with types (`‹a ≃ b›`, `‹a ≃ a' / b'›`).
3. Switch to the style of putting the "underscore side" of the relations first (see below); this is more readable because the proofs then follow the calculations they justify.
4. Align all of the proofs on the same column (easier to read).
5. Only use casting notation or conversion functions (`from_integer`) when absolutely necessary, or if there's a lot of casting going on and being explicit makes things clearer. I think in this case `a' / b'` shouldn't cause any problems.

Putting all of those together:

```lean4
  have : b ≃ a' / b' := calc
    _ ≃ b       := eqv_refl
    _ ≃ a       := eqv_symm ‹a ≃ b›
    _ ≃ a' / b' := ‹a ≃ a' / b'›
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 18]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+    AsRatio.intro a' b' bnz b_as_ratio
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: As mentioned above, use `exact` here and use types, not names:

```lean4
  exact AsRatio.intro a' b' ‹Integer.Nonzero b'› ‹b ≃ a' / b'›
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 19]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+  them to rationals using `from_integer`, then divide them. This theorem tells us
+  that we can also do the reverse: given any rational, there are two integers
+  that produce it when put into a ratio.
+
+  It's a useful property because it provides a way to "deconstruct" a rational
+  number into simpler pieces, which may be easier to work with. Although, it's
+  preferable to work with rational numbers directly, and use this only when
+  necessary.
+  -/
+theorem rational_as_ratio (p : ℚ) : AsRatio p := by
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Any reason for renaming this from `as_ratio` to `rational_as_ratio`? I think the `rational_` prefix is a bit redundant, because the theorem lives in the `Lean4Axiomatic.Rational` namespace. If there's a context where there's a risk of name conflict, or just ambiguity, then this theorem can be referred to as `Rational.as_ratio`, which provides the same level of clarity.

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 20]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+  apply ind_fraction_on p
+  intro a b b_nonzero
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Explicit types are preferred:

```lean4
  intro (a : ℤ) (b : ℤ) (_ : Integer.Nonzero b)
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 21]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+  show AsRatio (from_integer a / from_integer b)
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: I think the `from_integer` calls can be omitted?

```lean4
  show AsRatio (a / b)
```

Or, if showing the explicit conversion from integers to rationals is important, then using the "type ascription" form is more readable I think:

```lean4
  show AsRatio ((a:ℚ) / (b:ℚ))
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 22]
```diff
@@ -183,6 +182,58 @@ variable {ℚ : Type}
...
+  exact (AsRatio.intro a b b_nonzero eqv_refl)
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: The parentheses are redundant. And as usual, refer to types instead of variable names.

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 23]
```diff
@@ -191,27 +191,40 @@ theorem div_eqv_fraction
...
-equivalent to division of integers, and that the denominator is nonzero because
-it's positive.
--/
-def as_ratio (p : Fraction ℤ) : AsRatio p := by
-  revert p; intro (a//b)
-  show AsRatio (a//b)
-  have : Integer.Nonzero b := Integer.nonzero_from_positive_inst
-  have : a//b ≃ a / b := eqv_symm div_eqv_fraction
-  exact AsRatio.intro a b ‹Integer.Nonzero b› this
+Every fraction satisfies the rational induction axiom, that is
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: Great explanation! Could you wrap all variable references / code expressions in backticks please?

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 24]
```diff
@@ -191,27 +191,40 @@ theorem div_eqv_fraction
...
+compatible/substitive with respect to the equivalence relation ≃.
+
+**Proof intuition**: Expand the definitions of formal fractions, division on
+them, and the previous fundamental result div_eqv_fraction, to show that an 
+arbitrary formal fraction a//b ≃ (a : Fraction ℤ) / b. Now if a predicate
+(called motive below) holds for all expression like (a : Fraction ℤ) / b and
+it is compatible with ≃ (see motive_subst below), then clearly it holds for
+all formal fractions, specifically all elements of (Fraction ℤ).
+--/
+def ind_fraction {motive : (Fraction ℤ) → Prop}
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: Could you apply the formatting guidelines I shared in comments on the other file to this proof as well?

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 25]
```diff
@@ -191,27 +191,40 @@ theorem div_eqv_fraction
...
+it is compatible with ≃ (see motive_subst below), then clearly it holds for
+all formal fractions, specifically all elements of (Fraction ℤ).
+--/
+def ind_fraction {motive : (Fraction ℤ) → Prop} 
+  [motive_subst : AA.Substitutive₁ (α := (Fraction ℤ)) motive (· ≃ ·) (· → ·)]
+  : ({a b : ℤ} → [Integer.Nonzero b] → motive (a / b)) → (p : (Fraction ℤ)) →
+  motive p := by
+  intro ind_on_motive p; revert p; intro (a//b)
+  have b_not_zero : Integer.Nonzero b := Integer.nonzero_from_positive_inst
+  have ind_division : motive (a / b) := @ind_on_motive a b b_not_zero
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: Interesting that you needed to use the `@`-syntax here. Is it possible to leave it out? If not, it might make sense to turn the implicit arguments `{a b : ℤ}` into explicit arguments `(a b : ℤ)` in the theorem's signature.

**Review by cruhland — COMMENTED** [review]
Nice work! I left a _lot_ of comments, but they are mostly about the code formatting conventions that I've been using. They can get pretty nitpicky, so I don't mind if you'd rather not bother with some of them. Especially if it would be difficult for your pain management. I could make formatting commits and push them to the PR, or follow up on my own after the code's been merged -- whatever you're comfortable with.

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean (hunk 24 above)
Comment (Gedol) [reply Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: Yes, I believe I did, but maybe check if it looks good.

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 26]
```diff
@@ -191,27 +191,40 @@ theorem div_eqv_fraction
...
+implicitly. Technically, this result is guarenteed only for predicates that are
+compatible/substitive with respect to the equivalence relation `≃`.
+
+**Proof intuition**: Expand the definitions of formal fractions, division on
+them, and the previous fundamental result div_eqv_fraction, to show that an 
+arbitrary formal fraction `a//b ≃ (a : Fraction ℤ) / b`. Now if a predicate
+(called motive below) holds for all expression like `(a : Fraction ℤ) / b` and
+it is compatible with ≃ (see motive_subst below), then clearly it holds for
+all formal fractions, specifically all elements of `(Fraction ℤ)`.
+--/
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: Some minor adjustments:

```suggestion
Every fraction satisfies the rational induction axiom, that is if a predicate
holds for all formal fractions of the form `a / b`, with `a` and `b` being
integers, then it holds for all formal fractions.

**Property intuition**: When `a` and `b` are integers and `b ≄ 0`, they can be
converted/coerced to formal fractions `f₁ = a // 1` and `f₂ = b // 1` via
function `from_integer`. Dividing, we have `f₁ / f₂ ≃ a // b`. Since formal
fractions are just expressions of this form, it follows that if a predicate
holds for all such expressions `a / b`, it should hold for all formal
fractions, that is all elements of `Fraction ℤ`. Note `a / b` is the same as
`(from_integer a) / (from_integer b)`, since coercion happens implicitly.
Technically, this result is guaranteed only for predicates that are
compatible/substitutive with respect to the equivalence relation `≃`.

**Proof intuition**: Expand the definitions of formal fractions, division on
them, and the previous fundamental result `div_eqv_fraction`, to show that an
arbitrary formal fraction `a//b ≃ (a : Fraction ℤ) / b`. Now if a predicate
(called `motive` below) holds for all expressions like `(a : Fraction ℤ) / b`
and it is compatible with `≃` (see the `AA.Substitutive₁` argument below), then
clearly it holds for all formal fractions, specifically all elements of
`Fraction ℤ`.
-/
```

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 27]
```diff
@@ -191,27 +191,40 @@ theorem div_eqv_fraction
...
+    [motive_subst : AA.Substitutive₁ (α := (Fraction ℤ)) motive (· ≃ ·) (· → ·)]
+    : ((a b : ℤ) → [Integer.Nonzero b] → motive (a / b) ) → (p : (Fraction ℤ)) →
+    motive p := by
+  intro ind_on_motive p; revert p; intro (a//b)
   have : Integer.Nonzero b := Integer.nonzero_from_positive_inst
-  have : a//b ≃ a / b := eqv_symm div_eqv_fraction
-  exact AsRatio.intro a b ‹Integer.Nonzero b› this
+  have : motive (a / b) := ind_on_motive a b
+  have : motive (a//b) := motive_subst.subst₁ div_eqv_fraction ‹motive (a / b)›
+  exact this
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: I saw a few ways this could be streamlined. The main change is using `AA.substFn` instead of `motive_subst.subst₁`; `AA.substFn` is needed rather than `AA.subst₁` because it helps with type inference when the output type of `AA.Substitutive₁` is a function.

```
def ind_fraction
    {motive : Fraction ℤ → Prop} [AA.Substitutive₁ motive (· ≃ ·) (· → ·)] :
    ((a b : ℤ) → [Integer.Nonzero b] → motive (a / b)) →
    (p : Fraction ℤ) → motive p
    := by
  intro motive_on_div (a//b)
  have : Integer.Nonzero b := Integer.nonzero_from_positive_inst
  have : motive (a / b) := motive_on_div a b
  have : motive (a//b) := AA.substFn div_eqv_fraction this
  exact this
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 28]
```diff
@@ -148,21 +148,23 @@ class Division.Props
...
+  An induction/recursion principle for rationals.
+
+  It states that any predicate (that is substitutive wrt `≃` on rationals) that
+  holds for all rationals of the form `a / b` (where `a` and `b` are integers)
+  will also hold for any rational. In particular, this implies that all 
+  rationals can be represented in the form `a / b`, which is formalized below
+  in the theorem `as_ratio`. In other words, it excludes any rationals
+  not of this form. This axiom is inspired by the 
+  [induction axiom](https://w.wiki/7hJp) of the Peano axioms.
+
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Remove empty line

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 29]
```diff
@@ -148,21 +148,23 @@ class Division.Props
...
+  [induction axiom](https://w.wiki/7hJp) of the Peano axioms.
+     
   -/
-  as_ratio (p : ℚ) : AsRatio p
-
-export Division.Props (as_ratio div_mul_recip)
+  ind_fraction
+    {motive : ℚ → Prop} [AA.Substitutive₁ (α := ℚ) motive (· ≃ ·) (· → ·)]
+    : ((a b : ℤ) → [Integer.Nonzero b] → motive (a / b)) → (p : ℚ) → motive p
+--    : ({a b : ℤ} → [Integer.Nonzero b] → motive (a / b)) → (p : ℚ) → motive p
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Remove commented-out code

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 30]
```diff
@@ -183,6 +185,61 @@ variable {ℚ : Type}
...
+The predicate AsRatio satisfies a substitutive property with respect to the
+equivalence relation `≃`. 
+I.e. if two rationals `a` and `b` are equivalent and `a` can be expressed as an
+integer ratio, `a ≃ n / d`, then `b` can be expressed in the same way.
+-/
+theorem AsRatio_subst {a b : ℚ} : a ≃ b → AsRatio a → AsRatio b := by
+  intro (_ : a ≃ b) (_ : AsRatio a)
+  -- Decompose `a` into a ratio of integers
+  have (AsRatio.intro (n : ℤ) (d : ℤ) (_ : Integer.Nonzero d) eqv) 
+  := ‹AsRatio a›
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Indent this line (`:= ‹AsRatio a›`) by two spaces

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 31]
```diff
@@ -183,6 +185,61 @@ variable {ℚ : Type}
...
+theorem AsRatio_subst {a b : ℚ} : a ≃ b → AsRatio a → AsRatio b := by
+  intro (_ : a ≃ b) (_ : AsRatio a)
+  -- Decompose `a` into a ratio of integers
+  have (AsRatio.intro (n : ℤ) (d : ℤ) (_ : Integer.Nonzero d) eqv) 
+  := ‹AsRatio a› 
+  have : a ≃ n / d := eqv
+  have : b ≃ n / d := calc
+    _ ≃ b := eqv_refl 
+    _ ≃ a := eqv_symm ‹a ≃ b› 
+    _ ≃ n / d := ‹a ≃ n / d›
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: I like to line up the `:=` signs:

```suggestion
    _ ≃ b     := eqv_refl 
    _ ≃ a     := eqv_symm ‹a ≃ b› 
    _ ≃ n / d := ‹a ≃ n / d›
```

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 32]
```diff
@@ -183,6 +185,61 @@ variable {ℚ : Type}
...
+  exact AsRatio.intro n d ‹Integer.Nonzero d› ‹b ≃ n / d›
+
+instance AsRatio_subst_inst 
+    : AA.Substitutive₁ (α := ℚ) AsRatio (· ≃ ·) (· → ·) 
+    := {
+    subst₁ := AsRatio_subst
+  }
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: The last two lines can be de-dented by two spaces:

```suggestion
instance AsRatio_subst_inst 
    : AA.Substitutive₁ (α := ℚ) AsRatio (· ≃ ·) (· → ·) 
    := {
  subst₁ := AsRatio_subst
}
```

**Review by cruhland — APPROVED** [review]
This looks great, thanks for working on it! I have a few minor comments, mostly formatting, then I think this is good to go.

**Comment by Gedol** [comment]
Thanks Charles for review and helpful comments and pointer to AA.substFn.
